US05302743
In a known process which does not use L-phenylalanine methyl ester, N-formyl-L-aspartic anhydride is subjected to a condensation reaction with L-phenylalanine in acetic acid and then the formyl group is removed in the presence of an aqueous hydrogen halide solution. The reaction product is subsequently esterified by treating with water, alcohol and the aqueous hydrogen halide solution, and α-L-aspartyl-L-phenylalanine methyl ester is isolated in the form of its hydrogen halide salt (U.S. Pat. No. 3,933,781).

reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | N-formyl-L-aspartic anhydride | C(=O)N[C@H]1CC(=O)OC1=O | C5H5NO4
reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O | C14H18N2O5
